US05985871
4,5-Methylenedioxysalicylic acid was activated by carbonyldiimidazole in methylene chloride and combined with 3-aminopropanol in essentially an identical manner as for Example 1 above. An acidic quench and subsequent purification by flash chromatography (SiO2) using (1:1) hexane-ethyl acetate gave 3-(2-hydroxy-4,5-methylenedioxybenzamido)-1-propanol as a waxy white solid in 64% yield.

reactant | 4,5-Methylenedioxysalicylic acid | C1OC=2C=C(C(C(=O)O)=CC2O1)O | C8H6O5
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminopropanol | NCCCO | C3H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(2-hydroxy-4,5-methylenedioxybenzamido)-1-propanol | 64% yield | OC1=C(C(=O)NCCCO)C=C2C(=C1)OCO2 | C11H13NO5
